US04742052
A solution of sodium thioacetate, prepared by treating a solution of thioacetic acid (3.24 g) in dioxane (8 ml) and water (21.5 ml) with 1N aqueous sodium hydroxide, was added to a solution of 3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-acetoxy-2-azetidinone (15.0 g) in dioxane (56 ml) at 0° to 10° C. under nitrogen atmosphere. The reaction mixture was stirred at 0° C. for 15 minutes, diluted with ice-cooled dichloromethane, washed with water, dried over anhydrous sodium sulfate and evaporated to give an oily residue which was then purified by silica gel chromatography to give 3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-acetylthio-2-azetidinone.

reactant | sodium thioacetate | C(C)(=S)[O-].[Na+]
reactant | thioacetic acid | 3.24 g | C(C)(=S)O | C2H4OS
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-acetoxy-2-azetidinone | 15.0 g | [N+](=O)([O-])C1=CC=C(COC(=O)OC(C)C2C(NC2OC(C)=O)=O)C=C1 | C15H16N2O8
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | water | 21.5 ml | O | H2O
solvent | dioxane | 56 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-acetylthio-2-azetidinone | [N+](=O)([O-])C1=CC=C(COC(=O)OC(C)C2C(NC2SC(C)=O)=O)C=C1 | C15H16N2O7S
